US09340546B2
3-bromopyridin-4-amine (5 g, 28.90 mmol) was suspended in dry toluene (100 mL) and cooled in an ice-bath. A solution of thiophosgene (6.646 g, 4.407 mL, 57.80 mmol) in dry toluene (100 mL) was added dropwise over 25 mins. The resulting orange/red suspension was stirred at reflux overnight. The red suspension was allowed to cool to RT and concentrated under reduced pressure to give a dark brown/red solid. This material was partitioned between saturated NaHCO3 and DCM. The aqueous layer was extracted with further DCM (3×50 mL) and the combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure to give a dark red solid/gum. This material was suspended in MeOH/DCM, adsorbed onto silica under reduced pressure and purified by column chromatography (75% EtOAc in hexanes, ˜300 mL silica) to give 3-bromo-4-isothiocyanatopyridine as a red oil which solidified on standing (3.513 g, 57% Yield). MS (ES+) 216.9.

reactant | 3-bromopyridin-4-amine | 28.90 mmol, 5 g | BrC=1C=NC=CC1N | C5H5BrN2
reactant | thiophosgene | 57.80 mmol, 4.407 mL, 6.646 g | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH DCM | CO.C(Cl)Cl
product | 3-bromo-4-isothiocyanatopyridine | 57% Yield | BrC=1C=NC=CC1N=C=S | C6H3BrN2S
